US04474793
4(R)-Allylthio-3(S)-[1(R)-{dimethyl-{2-methylprop-2-yl}-silyloxy}ethyl]azetidin-2-one
To a stirred solution of 1.14 ml of allyl mercaptan and 0.4 g of sodium hydroxide in 25 ml of water under an argon atmosphere was added a solution of 2.87 g of 4-acetoxy-3(S)-[1(R)-{dimethyl-{2-methylprop-2-yl}silyloxy}ethyl]azetidin-2-one in 10 ml of methanol. After 30 minutes, the mixture was partitioned between dichloromethane and water. The separated organic layer was washed with water, was dried over magnesium sulphate, evaporated to dryness, and then chromatographed on silica gel. Elution with ethyl acetate/hexane mixtures afforded 1.8 g of the title compound as white crystals.

reactant | allyl mercaptan | 1.14 ml | C(C=C)S | C3H6S
reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
reactant | 4-acetoxy-3(S)-[1(R)-{dimethyl-{2-methylprop-2-yl}silyloxy}ethyl]azetidin-2-one | 2.87 g | C(C)(=O)OC1[C@@H](C(N1)=O)[C@@H](C)O[Si](C(C)(C)C)(C)C | C13H25NO4Si
solvent | water | 25 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 4(R)-Allylthio-3(S)-[1(R)-{dimethyl-{2-methylprop-2-yl}-silyloxy}ethyl]azetidin-2-one | 1.8 g | C(C=C)S[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C(C)(C)C)(C)C | C14H27NO2SSi
